US06777417B2
Synthesis of 2-Oxo-3-[1-[3-(3-piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
3-(3-Piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (61 mg, 0.22 mmol), prepared as described in Steps 1-3, Example 8 above, was condensed with 5-methylaminosulfonyloxindole (46 mg, 0.2 mmol) following the procedure used in Example 1 to precipitate 24 mg of the desired product as as a yellow solid.

reactant | 3-(3-Piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.22 mmol, 61 mg | N1(CCNCC1)CCCC1=C(NC=2CCCCC12)C=O | C16H25N3O
reactant | 5-methylaminosulfonyloxindole | 0.2 mmol, 46 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 2-Oxo-3-[1-[3-(3-piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCNCC1 | C25H33N5O3S
